US04093809
To 243 grams (1.76 moles) of diethyl phosphite stirred under nitrogen and protected by a drying tube was added a solution of sodium ethoxide prepared from 5.07 grams (0.22 mole) of sodium in 100 ml of anhydrous ethanol. Methyl vinyl ketone, 112 grams (1.60 moles), was then added at such a rate as to keep the temperature at 35°-40° C. The addition required about one hour. The reaction mixture was stirred for one-half hour after the addition was completed and was stripped to dryness in vacuo at 60° C/16 mm. The residue was taken up in 600 ml of chloroform, and the solution cooled to 15° C and washed successively with dilute acid, water and saturated sodium chloride solution. After drying, the chloroform solution was distilled to yield 112 grams of diethyl 3-oxobutylphosphonate as a colorless liquid, B.P. 106° C/0.05 mm, nD 25 1.4340. VPC indicated that the product was 90% pure.

reactant | diethyl phosphite | 1.76 moles, 243 grams | P(OCC)(OCC)[O-]
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.22 mole, 5.07 grams | [Na] | Na
reactant | Methyl vinyl ketone | C(=C)C(=O)C | C4H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | diethyl 3-oxobutylphosphonate | 112 grams | O=C(CCP(OCC)(OCC)=O)C | C8H17O4P
